US07635715B2
Step G: Preparation of N-((8-Fluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycine
In a flask was combined 1,1-dimethylethyl N-((8-fluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate (1.7 g, 4.2 mmol) and TFA (50 mL). The reaction was stirred for 15 minutes and then concentrated to afford an oil. Water was added, affording a white precipitate that was filtered off and washed with water and ether. The solid was dried under vacuum at 50° C. (1.4 g, 98%). MS m/e=348 (M−1)−. Calculated for C17H16FNO6 349.1.

reactant | 1,1-dimethylethyl N-((8-fluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate | 4.2 mmol, 1.7 g | FC=1C=CC=C2C(=C(C(C3(CCOCC3)C12)=O)C(=O)NCC(=O)OC(C)(C)C)O | C21H24FNO6
reactant | TFA | 50 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | Water | O | H2O
product | N-((8-Fluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycine | FC=1C=CC=C2C(=C(C(C3(CCOCC3)C12)=O)C(=O)NCC(=O)O)O | C17H16FNO6
